US08071605B2
Methyl (3S,4R)-4-(benzylamino)-3-methylpiperidine-1-carboxylate (8.0 g, 0.02 mol) was dissolved in methanol (200 mL) and hydrogenated at room temperature, under 50 psi of hydrogen pressure, in the presence of palladium (2.5 g) on carbon for 2 h. The solution was then filtered and concentrated under reduced pressure to yield 3.5 g (92%) Methyl (3S,4R)-4-amino-3-methylpiperidine-1-carboxylate as liquid.

reactant | Methyl (3S,4R)-4-(benzylamino)-3-methylpiperidine-1-carboxylate | 0.02 mol, 8.0 g | C(C1=CC=CC=C1)N[C@H]1[C@H](CN(CC1)C(=O)OC)C | C15H22N2O2
solvent | methanol | 200 mL | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium | 2.5 g | [Pd] | Pd
product | Methyl (3S,4R)-4-amino-3-methylpiperidine-1-carboxylate | 3.5 g, 92% | N[C@H]1[C@H](CN(CC1)C(=O)OC)C | C8H16N2O2
